US06664238B1
2,2-Dimethyl-3-(4-pyridin-3-yl-imidazol-1-yl)-propioaldehyde
To a solution of 2,2-Dimethyl-3-(4-pyridin-3-yl-imidazol-1-yl)-propanol (11 mg) in CH2Cl2 was added Dess-Martin periodinane (41 mg) and the resulting solution was stirred at room temperature for 15 minutes. Saturated NaHCO3 was added, the aqueous layer was extracted with CHCl3, the combined organic layers were washed with brine, dired over Na2SO4 and evaporated in vacuo to afford the title compound as a slightly yellow oil.

reactant | 2,2-Dimethyl-3-(4-pyridin-3-yl-imidazol-1-yl)-propanol | 11 mg | CC(CO)(CN1C=NC(=C1)C=1C=NC=CC1)C | C13H17N3O
reactant | Dess-Martin periodinane | 41 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-3-(4-pyridin-3-yl-imidazol-1-yl)-propioaldehyde | CC(C=O)(CN1C=NC(=C1)C=1C=NC=CC1)C | C13H15N3O
